US07524823B2
B] Preparation of 6-Amino-9-(2-chloroethyl)-8-[(3-pyridinylmethyl)amino]-9H-purine
A mixture of 350 mg (1.22 mmol) 6-amino-9-(2-hydroxyethyl)-8-[(3-pyridinyl-methyl)amino]-9H-purine and 2 ml of thionylchloride was stirred at 50° C. After completion of the reaction (˜3h) the mixture was concentrated in vacuo and subsequently diluted with water and the pH was adjusted to pH 7 with ammonia. The precipitate was isolated, washed with water, ethyl acetate and diethylether to give 197 mg (53%) of the desired product. 1H-NMR (DMSO): 8.62 (s, 1H), 8.44 (d, 1H), 7.92 (s, 1H), 7.80 (d, 1H), 7.38 (t, 1H), 7.33 (m, 1H, NH), 6.32 (s, 2H, NH2), 4.60 (d, 2H), 4.34 (t, 2H), 3.92 (t, 2H).

reactant | 6-amino-9-(2-hydroxyethyl)-8-[(3-pyridinyl-methyl)amino]-9H-purine | 1.22 mmol, 350 mg | NC1=C2N=C(N(C2=NC=N1)CCO)NCC=1C=NC=CC1 | C13H15N7O
reactant | thionylchloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-Amino-9-(2-chloroethyl)-8-[(3-pyridinylmethyl)amino]-9H-purine | 197 mg, 53% | NC1=C2N=C(N(C2=NC=N1)CCCl)NCC=1C=NC=CC1 | C13H14ClN7
